US05308840
Synthesis of 4-methyl-2-nitroanisol (1)
A reaction mixture of 2-nitro-p-cresol (23.58 g, 0.154 mmol), methylene chloride (200 ml), tetra-n-butylammonium hydrogensulfate (5.15 g, 15.2 mmol), 1N sodium hydroxide (170 ml) and dimethyl sulfate (16.0 ml, 0.169 mmol) was stirred at room temperature for 2 hours. The reaction mixture was poured into water and extracted with methylene chloride. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The concentrate was immediately used for the next reaction.

reactant | 2-nitro-p-cresol | 0.154 mmol, 23.58 g | [N+](=O)([O-])C1=CC(=CC=C1O)C | C7H7NO3
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 1N, 170 ml | [OH-].[Na+]
reactant | dimethyl sulfate | 0.169 mmol, 16.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | tetra-n-butylammonium hydrogensulfate | 15.2 mmol, 5.15 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-methyl-2-nitroanisol | CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C8H9NO3
